US07863271B2
To an ice-cold solution of methyl 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate (273 mg, 0.943 mmol) in CH2Cl2 (5 mL) was added pyridine (0.114 mL, 1.41 mmol) followed by acetyl chloride (0.100 mL, 1.41 mmol) under an atmosphere of nitrogen. The mixture stirred for 18 h while gradually warming to room temperature. The reaction was diluted with CH2Cl2 (10 mL) and washed with saturated aqueous NaHCO3 solution (10 mL), 1 N HCl solution (10 mL), and brine (10 mL). The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The resulting residue was purified by column chromatography over silica gel (0% to 50%, 95:15:1.5, CH2Cl2/CH3OH/concentrated NH4OH in CH2Cl2) to give methyl 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate as an oil (62.1 mg, 20%). 1H NMR and MS consistent.

reactant | methyl 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | 0.943 mmol, 273 mg | C[C@@H]1N([C@H](CNC1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C15H19N3O3
reactant | pyridine | 1.41 mmol, 0.114 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.41 mmol, 0.100 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | 62.1 mg, 20% | C(C)(=O)N1C[C@@H](N([C@H](C1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C | C17H21N3O4
